US08426447B2
A vial was charged with (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol (0.647 g, 1.858 mmol), DavePhos (0.088 g, 0.223 mmol), and tris(dibenzylideneacetone)dipalladium(0) (0.085 g, 0.093 mmol). The vessel was flushed with Ar(g), then lithium bis(trimethylsilyl)amide (1.0 M in THF) (9.29 mL, 9.29 mmol) and morpholine (0.486 mL, 5.58 mmol) were added in sequence. The vial was sealed and heated at 70° C. for one hour at which point the mixture was diluted with water and saturated ammonium chloride. The mixture was extracted with DCM (3×30 mL). The aq. layer was extracted with ethyl acetate and 10% iPrOH/EtOAc, and the solid was taken with the organic layer. The different organic layers were combined, dried over sodium sulfate, filtered, and evaporated. The material was purified via column chromatography (RediSep 40 g, gradient elution 0-10% MeOH:DCM w/1% NH4OH) to afford (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol as an orange solid.

reactant | (S)-2′-amino-3-bromo-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | 1.858 mmol, 0.647 g | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)Br)O | C14H10BrN3O3
reactant | DavePhos | 0.223 mmol, 0.088 g | CN(C)C1=CC=CC=C1C2=CC=CC=C2P(C3CCCCC3)C4CCCCC4 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | 9.29 mmol, 1.0 M, 9.29 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | morpholine | 5.58 mmol, 0.486 mL | N1CCOCC1 | C4H9NO
solvent | water | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.093 mmol, 0.085 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-2′-amino-3-morpholino-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-7-ol | NC=1OC[C@]2(N1)C1=CC(=CC=C1OC1=NC=C(C=C12)N1CCOCC1)O | C18H18N4O4
